US03951987
0.2 g. of powdered iron is added to a solution of 0.34 g. of 4-(p-fluorophenyl)-1,2,3,6-tetrahydro-1-[2-(p-nitrophenoxy) ethyl]pyridine in a mixture of 2 ml. of 1N hydrochloric acid, 10 ml. of ethanol and 10 ml. of water. The mixture is refluxed for 4 hrs., cooled and made alkaline by addition of 1N sodium hydroxide. After addition of 20 ml. of chloroform and celite, the mixture is filtered. The organic phase is separated, dried and evaporated. The oily residue obtained is dissolved in ethyl acetate and converted to the hydrochloride by addition of ethanolic hydrogen chloride. The 1-[2-(p-aminophenoxy)ethyl]-4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine dihydrochloride obtained in this way has m.p. 180°-181° after recrystallization from ethanol/ethylacetate/ether.

reactant | 4-(p-fluorophenyl)-1,2,3,6-tetrahydro-1-[2-(p-nitrophenoxy) ethyl]pyridine | FC1=CC=C(C=C1)C=1CCN(CC1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C19H19FN2O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 1-[2-(p-aminophenoxy)ethyl]-4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine dihydrochloride | Cl.Cl.NC1=CC=C(OCCN2CCC(=CC2)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C19H21FN2O.2ClH/c20-17-3-1-15(2-4-17)16-9-11-22(12-10-16)13-14-23-19-7-5-18(21)6-8-19;;/h1-9H,10-14,21H2;2*1H
